US04691027
5-t-Butyldimethylsilyloxy-4,6,7-trimethyl-1,3-benzoxathiole-3-oxide
The whole of the 5-t-butyldimethylsilyloxy-4,6,7-trimethyl-1,3-benzoxathiole obtained as described in Example 92 was dissolved in 100 ml of methylene chloride, and 0.99 g of m-chloroperbenzoic acid was added, with ice cooling, to the resulting solution. The reaction mixture was then stirred for 1 hour at the same temperature, after which it was poured into a saturated aqueous solution of sodium bicarbonate, extracted with chloroform, washed with water and dried over anhydrous sodium sulfate. The solvent was then distilled off, whereupon the residue crystallized. The crystals were washed with carbon tetrachloride, yielding 1.30 g of the title compound, melting at 100°-101° C.

reactant | 5-t-butyldimethylsilyloxy-4,6,7-trimethyl-1,3-benzoxathiole | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C2=C(SCO2)C1C)C)C | C16H26O2SSi
reactant | m-chloroperbenzoic acid | 0.99 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-t-Butyldimethylsilyloxy-4,6,7-trimethyl-1,3-benzoxathiole-3-oxide | 1.30 g | [Si](C)(C)(C(C)(C)C)OC=1C(=C(C2=C(S(CO2)=O)C1C)C)C | C16H26O3SSi
